US06251926B1
A 4N aqueous solution of potassium hydroxide (5 ml) was added to a solution of methyl E-2,2-dimethyl-6-[4(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-6-phenylhexanoate (340 mg) in tetrahydrofuran (5 ml)-methanol (5 ml), which was heated to reflux for 2 hours and cooled to room temperature. Dilute hydrochloric acid was added to the reaction mixture to neutralize and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain E-2,2-dimethyl-6-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-6-phenylhexanoic acid (275 mg, yield 83%) as colorless crystals. m.p. 111-112° C.

reactant | potassium hydroxide | 5 ml | [OH-].[K+]
reactant | methyl E-2,2-dimethyl-6-[4(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-6-phenylhexanoate | 340 mg | CC(C(=O)OC)(CCC\C(\C1=CC=CC=C1)=N/OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)C | C33H36N2O5
reactant | methanol | 5 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | E-2,2-dimethyl-6-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-6-phenylhexanoic acid | 275 mg, yield 83% | CC(C(=O)O)(CCC\C(\C1=CC=CC=C1)=N/OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)C | C32H34N2O5
